US07576094B2
[1-(4-Hydroxy-2,3,5-trimethyl-phenylsulfanyl)-cyclobutyl]-acetic acid methyl ester (1.16 g) was suspended in 50 mL of 1N NaOH in MeOH and water (1:1, v/v), and the mixture was allowed to stir for 1 hour. The mixture was then acidified with 1 N HCl and extracted 3 times with ethyl acetate. The organic layer was washed with water and dried over anhydrous MgSO4, and concentrated in vacuo. The resulting acid was dissolved in 50 mL of concentrated sulfuric acid to form a homogeneous dark red solution. After 1 hour at room temperature the solution was poured into crushed ice. The resulting green mixture was extracted 3 times with ethyl acetate. The organic layer was washed with water and dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluted with 10% ethyl acetate in hexane to give 0.9 g of 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1,2′-thiochromen]-4′(3′H)-one as a yellow solid.

reactant | [1-(4-Hydroxy-2,3,5-trimethyl-phenylsulfanyl)-cyclobutyl]-acetic acid methyl ester | 1.16 g | COC(CC1(CCC1)SC1=C(C(=C(C(=C1)C)O)C)C)=O | C16H22O3S
reactant | water | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | NaOH | 1N, 50 mL | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 6′-hydroxy-5′,7′,8′-trimethylspiro[cyclobutane-1,2′-thiochromen]-4′(3′H)-one | 0.9 g | OC=1C(=C2C(CC3(SC2=C(C1C)C)CCC3)=O)C | C15H18O2S
